US04399126
N,N'-Bis[4-[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosylthio]phenyl]octanediamide
To a stirred solution of 25 g of 4-aminophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside in 250 ml of a dry mixture of pyridine-acetonitrile (1:1) was added a solution of 3.55 g of suberoyl chloride in 10 ml of acetonitrile. This mixture was allowed to stand, under argon, for 18 hours. An additional 0.2 ml of suberoyl chloride was added, the solution was allowed to stand for an additional 18 hours and was then poured into 2 liters of water. After stirring for 15 minutes, the oil was separated and extracted into 500 ml of dichloromethane. The extract was washed twice with 500 ml portions of 0.5 N hydrochloric acid, then with saturated aqueous sodium chloride solution, dried and taken to dryness, giving 28 g of the desired product as a white foam.

reactant | 4-aminophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 25 g | C(C)(=O)O[C@H]1[C@H](SC2=CC=C(C=C2)N)O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O | C32H41NO17S
reactant | pyridine-acetonitrile | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | suberoyl chloride | 3.55 g | C(CCCCCCC(=O)Cl)(=O)Cl | C8H12Cl2O2
reactant | suberoyl chloride | 0.2 ml | C(CCCCCCC(=O)Cl)(=O)Cl | C8H12Cl2O2
reactant | water | 2 liters | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N,N'-Bis[4-[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosylthio]phenyl]octanediamide | 28 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O)SC1=CC=C(C=C1)NC(CCCCCCC(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)[C@H](O1)COC(C)=O)=O | C72H92N2O36S2
